US08530504B2
(77b) tert-Butyl{3-[4-(2-fluoroethoxy)-2,6-dimethoxyphenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl}carbamate
To a DMF (2.28 ml) solution of tert-butyl[3-(4-hydroxy-2,6-dimethoxyphenyl)-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate (115 mg, 0.273 mmol) were added potassium carbonate (49.0 mg, 0.355 mmol) and 1-iodo-2-fluoroethane (61.7 mg, 0.355 mmol), and the mixture was stirred at room temperature for 20 hours and 30 minutes. Water was added to the reaction mixture, and the mixture was extracted with diethyl ether. The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure to obtain a crude product of the title compound (128 mg, 0.273 mmol)

reactant | DMF | 2.28 ml | CN(C)C=O | C3H7NO
reactant | tert-butyl[3-(4-hydroxy-2,6-dimethoxyphenyl)-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl]carbamate | 0.273 mmol, 115 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC=C2C2=C(C=C(C=C2OC)O)OC)OC)=O | C19H23N3O6S
reactant | potassium carbonate | 0.355 mmol, 49.0 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-iodo-2-fluoroethane | 0.355 mmol, 61.7 mg | ICCF | C2H4FI
solvent | Water | O | H2O
product | tert-Butyl{3-[4-(2-fluoroethoxy)-2,6-dimethoxyphenyl]-6-methoxypyrazolo[5,1-b][1,3]thiazol-7-yl}carbamate | 0.273 mmol, 128 mg | C(C)(C)(C)OC(NC=1C(=NN2C1SC=C2C2=C(C=C(C=C2OC)OCCF)OC)OC)=O | C21H26FN3O6S
